US04172093
(f) 5'-hydroxy-spiro(cyclopentane-1,1'-indan)-3'-one
A mixture of 5'-amino-spiro(cyclopentane-1,1'-indan)-3'-one (20.1 g; 0.1 mole) 2 N sulphoric acid (150 ml) and ice (30 g) is diazotised at about +5° C. with a solution of sodium nitrate (11 g) in water (25 ml). The solution is filtrated and poured in boiling mixture of 100 ml of water and 10 ml of conc. sulphuric acid. The boiling is continued until the development of nitrogen gas ceases, after which the mixture is chilled and the solid, dark brown substance is filtered off. After drying there are obtained 20 g of a crude product, which is recrystallized from trichloroethylene. Yield 12 g of a light powder of mp. 145° C. 4 g of the substance can be recovered from the mother liquid by means of extraction with 2 N sodium hydroxide and subsequent precipitation with 2 N hydrochloric acid.

reactant | 5'-amino-spiro(cyclopentane-1,1'-indan)-3'-one | 0.1 mole, 2 N, 20.1 g | NC=1C=C2C(CC3(C2=CC1)CCCC3)=O | C13H15NO
reactant | sodium nitrate | 11 g | [N+](=O)([O-])[O-].[Na+]
solvent | water | 25 ml | O | H2O
product | 5'-hydroxy-spiro(cyclopentane-1,1'-indan)-3'-one | 20 g | OC=1C=C2C(CC3(C2=CC1)CCCC3)=O | C13H14O2
